US08461348B2
methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate
Under a nitrogen atmosphere at 0° C., to a solution of 2-oxobutyric acid (12 g, 120 mmol) in methanol was added thionyl chloride (40 mL, 330 mmol), and the mixture was stirred at the same temperature for 3 hr. The solvent was evaporated under reduced pressure. Under a nitrogen atmosphere at 0° C., to a solution (50 mL) of the residue in diethyl ether was slowly added dropwise a solution (50 mL) of bromine (10 g, 130 mmol) in diethyl ether, and the mixture was stirred overnight while allowing the mixture to spontaneously warm. The solvent was evaporated under reduced pressure. An aqueous solution (120 mL) of the residue and thiourea (6.3 g, 83 mmol) was heated under reflux for 3 hr, and cooled to room temperature. The reaction mixture was neutralized with 20% aqueous ammonia solution. The resulting crude title compound was collected by filtration, washed with water to give the title compound (3.3 g, 23%) as a colorless solid.

reactant | 2-oxobutyric acid | 120 mmol, 12 g | O=C(C(=O)O)CC | C4H6O3
reactant | thionyl chloride | 330 mmol, 40 mL | S(=O)(Cl)Cl | Cl2OS
reactant | bromine | 130 mmol, 50 mL, 10 g | BrBr | Br2
reactant | thiourea | 83 mmol, 6.3 g | NC(=S)N | CH4N2S
reactant | ammonia | N | H3N
reactant | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate | 3.3 g, 23% | NC=1SC(=C(N1)C(=O)OC)C | C6H8N2O2S
